US05466690
1,1,4,4,7-Pentamethyl-1,2,3,4-tetrahydronaphthalene
To a stirred solution of 794.2 mg (7.8486 mmol) diisopropylamine in 7 ml dry tetrahydrofuran under argon at -78° C. was added dropwise 4.9 ml of 1.6M (7.84 mmol) n-butyllithium in hexane. This solution was stirred at -78° C. for 1.25 hours and then treated via a double ended needle with a solution of 1.9 g (7.7749 mmol) of 1,1,4,4,7-pentamethyl-6-acetyl-1,2,3,4-tetrahydronapthalene in 4 ml dry tetrahydrofuran. After stirring at -78° C. for 1 hour, the mixture was treated with 1.3134 g (7.6117 mmol) of diethyl chlorophosphate. The cooling bath was removed and mixture stirred at room temperature for 3 hours. This material was then transferred using a double ended needle into a solution of lithium diisopropylamide [prepared as above using 1.5884 g (15.6972 mmol) of diisopropylamine and 10 ml of 1.6M (16 mmol) n-butyllithium in hexane] in 15 ml dry tetrahydrofuran at -78° C. The cooling bath was removed and mixture stirred at room temperature for 15 hours, then quenched with 50 ml water, and acidified to pH 1 with 3N hydrogen chloride. The mixture was extracted with 3×75 ml petroleum ether and the organic extracts were combined, washed with saturated NaHCO3 and saturated NaCl solutions and dried (MgSO4). Solvent was then removed in vacuo and the residue purified by flash chromatography (silica; 3% ethyl acetate in hexane) followed by kugelrohr distillation (50° C., 0.05 mm) to give the title compound as a colorless oil. PMR (CDCl3): δ1.28 (12H, s), 1.67 (4H, s), 1.42 (3H, s), 3.20 (1H, s), 7.15 (1H, s), 7.44 (1H, s).

reactant | diisopropylamine | 7.8486 mmol, 794.2 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | 1,1,4,4,7-pentamethyl-6-acetyl-1,2,3,4-tetrahydronapthalene | 7.7749 mmol, 1.9 g | CC1(CCC(C2=CC(=C(C=C12)C)C(C)=O)(C)C)C | C17H24O
reactant | diethyl chlorophosphate | 7.6117 mmol, 1.3134 g | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | lithium diisopropylamide | 15.6972 mmol, 10 ml, 1.5884 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 15.6972 mmol | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 16 mmol | C(CCC)[Li]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,1,4,4,7-Pentamethyl-1,2,3,4-tetrahydronaphthalene | CC1(CCC(C2=CC=C(C=C12)C)(C)C)C | C15H22
